US07041674B2
6.1.: tropenol biphen-2-ylmethylcarbamate
3.67 g (0.02 mol) of 2-phenylbenzylamine is placed in 250 mL saturated sodium bicarbonate solution and 250 mL dichloromethane. At 0° C., 52.9 mL (0.10 mol) of 20% phosgene-toluene solution are added under the surface of the dichloromethane. The mixture is vigorously stirred for 30 minutes. The two phases are separated, the organic phase is dried over sodium sulfate and evaporated to dryness. The residue is dissolved in 20 mL acetonitrile and 4.18 g (0.03 mol) of tropenol in 10 mL acetonitrile is added dropwise, whereupon a precipitate is formed. It is stirred for 12 hours at ambient temperature. The precipitate is suction filtered and the mother liquor evaporated to dryness. The residue is dissolved in dichloromethane and washed with water, water mixed with acetic acid (2 drops of glacial acetic acid to 100 mL of water), and 10% sodium carbonate solution. The organic phase is dried and evaporated to dryness. Yield: 2.85 g (41% of theory).

reactant | 2-phenylbenzylamine | 0.02 mol, 3.67 g | C1(=CC=CC=C1)C1=C(CN)C=CC=C1 | C13H13N
reactant | phosgene toluene | 0.10 mol, 52.9 mL | C(=O)(Cl)Cl.C1(=CC=CC=C1)C
reactant | tropenol | 0.03 mol, 4.18 g | [C@@]12(C=CC[C@H](CC1)N2C)O | C8H13NO
solvent | sodium bicarbonate | 250 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tropenol biphen-2-ylmethylcarbamate | C1(=CC=CC=C1C1=CC=CC=C1)CNC(=O)O[C@]12C=CC[C@H](CC1)N2C | C22H24N2O2
